US03979390
A mixture of γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride (4.0 g), benzylamine (20.0 g) and dimethylsulfoxide (100 ml) was stirred at 70° to 80°C for 8 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was sufficiently washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Treatment of the residue with ethanol afforded γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-4-benzylamino-2-fluorobutyrophenone. M.P. 158° - 165°C. IR νmaxNujol 3350, 1650 cm-1.

reactant | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-2,4-difluorobutyrophenone hydrochloride | 4.0 g | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)F)O
reactant | benzylamine | 20.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | γ-[4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl]-4-benzylamino-2-fluorobutyrophenone | ClC1=CC=C(C=C1)C1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)F)NCC1=CC=CC=C1)O | C28H30ClFN2O2
